Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[O:3][CH2:4][CH2:5][Cl:6].[CH3:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH2:13])[c:14]1[CH2:15][NH:16][c:17]1[cH:18][cH:19][cH:20][n:21]2[c:22]([CH:23]=[O:24])[c:25]([CH3:26])[n:27][c:28]12>>[C:1](=[O:2])([O:3][CH2:4][CH2:5][Cl:6])[NH:13][c:12]1[cH:11][cH:10][cH:9][c:8]([CH3:7])[c:14]1[CH2:15][NH:16][c:17]1[cH:18][cH:19][cH:20][n:21]2[c:22]([CH:23]=[O:24])[c:25]([CH3:26])[n:27][c:28]12,[CH3:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH2:13])[c:14]1[CH2:15][NH:16][c:17]1[cH:18][cH:19][cH:20][n:21]2[c:22]([CH:23]=[O:24])[c:25]([CH3:26])[n:27][c:28]12.[Cl:101][C:1](=[O:2])[O:3][CH2:4][CH2:5][Cl:6]>>[C:1](=[O:2])([O:3][CH2:4][CH2:5][Cl:6])[NH:13][c:12]1[cH:11][cH:10][cH:9][c:8]([CH3:7])[c:14]1[CH2:15][NH:16][c:17]1[cH:18][cH:19][cH:20][n:21]2[c:22]([CH:23]=[O:24])[c:25]([CH3:26])[n:27][c:28]12,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][O:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]([CH3:13])=[O:14])[cH:15]1.[O:16]=[C:17]([NH:18][c:19]1[cH:20][cH:21][cH:22][c:23]([CH:24]2[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]2)[cH:30]1)[CH:31]1[CH2:32][CH2:33]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][O:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]([CH3:13])=[O:14])[cH:15]1)[N:27]1[CH2:26][CH2:25][CH:24]([c:23]2[cH:22][cH:21][cH:20][c:19]([NH:18][C:17](=[O:16])[CH:31]3[CH2:32][CH2:33]3)[cH:30]2)[CH2:29][CH2:28]1,[O:16]=[C:17]([NH:18][c:19]1[cH:20][cH:21][cH:22][c:23]([CH:24]2[CH2:25][CH2:26][NH:27][CH2:28][CH2:29]2)[cH:30]1)[CH:31]1[CH2:32][CH2:33]1.[Cl:101][CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][O:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]([CH3:13])=[O:14])[cH:15]1>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][O:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]([CH3:13])=[O:14])[cH:15]1)[N:27]1[CH2:26][CH2:25][CH:24]([c:23]2[cH:22][cH:21][cH:20][c:19]([NH:18][C:17](=[O:16])[CH:31]3[CH2:32][CH2:33]3)[cH:30]2)[CH2:29][CH2:28]1,SN2,"[(27, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][c:4]2[c:5]([NH:6][CH:7]3[CH2:8][CH2:9][N:10]([C:11](=[O:12])[O:13][CH2:14][CH:15]4[c:16]5[cH:17][cH:18][cH:19][cH:20][c:21]5-[c:22]5[cH:23][cH:24][cH:25][cH:26][c:27]54)[CH2:28][CH2:29]3)[cH:30][c:31](-[c:32]3[cH:33][cH:34][n:35][c:36]([NH:37][CH3:38])[n:39]3)[cH:40][c:41]2[cH:42][cH:43]1>>[OH:1][c:2]1[cH:3][c:4]2[c:5]([NH:6][CH:7]3[CH2:8][CH2:9][N:10]([C:11](=[O:12])[O:13][CH2:14][CH:15]4[c:16]5[cH:17][cH:18][cH:19][cH:20][c:21]5-[c:22]5[cH:23][cH:24][cH:25][cH:26][c:27]54)[CH2:28][CH2:29]3)[cH:30][c:31](-[c:32]3[cH:33][cH:34][n:35][c:36]([NH:37][CH3:38])[n:39]3)[cH:40][c:41]2[cH:42][cH:43]1,[CH3:101][O:1][c:2]1[cH:3][c:4]2[c:5]([NH:6][CH:7]3[CH2:8][CH2:9][N:10]([C:11](=[O:12])[O:13][CH2:14][CH:15]4[c:16]5[cH:17][cH:18][cH:19][cH:20][c:21]5-[c:22]5[cH:23][cH:24][cH:25][cH:26][c:27]54)[CH2:28][CH2:29]3)[cH:30][c:31](-[c:32]3[cH:33][cH:34][n:35][c:36]([NH:37][CH3:38])[n:39]3)[cH:40][c:41]2[cH:42][cH:43]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4]2[c:5]([NH:6][CH:7]3[CH2:8][CH2:9][N:10]([C:11](=[O:12])[O:13][CH2:14][CH:15]4[c:16]5[cH:17][cH:18][cH:19][cH:20][c:21]5-[c:22]5[cH:23][cH:24][cH:25][cH:26][c:27]54)[CH2:28][CH2:29]3)[cH:30][c:31](-[c:32]3[cH:33][cH:34][n:35][c:36]([NH:37][CH3:38])[n:39]3)[cH:40][c:41]2[cH:42][cH:43]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([NH:8][S:9](=[O:10])(=[O:11])[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[n:22][cH:23][cH:24][n:25]2)[cH:26][cH:27]1.[CH3:28][CH2:29][c:30]1[n:31][c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[nH:38]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([NH:8][S:9](=[O:10])(=[O:11])[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[n:22][cH:23][cH:24][n:25]2)[cH:26][cH:27]1)[n:38]1[c:30]([CH2:29][CH3:28])[n:31][c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]12,[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([NH:8][S:9](=[O:10])(=[O:11])[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[n:22][cH:23][cH:24][n:25]2)[cH:26][cH:27]1.[CH3:28][CH2:29][c:30]1[n:31][c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[nH:38]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5](-[c:6]2[c:7]([NH:8][S:9](=[O:10])(=[O:11])[c:12]3[cH:13][cH:14][cH:15][cH:16][c:17]3[C:18]([F:19])([F:20])[F:21])[n:22][cH:23][cH:24][n:25]2)[cH:26][cH:27]1)[n:38]1[c:30]([CH2:29][CH3:28])[n:31][c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]12,SN2,"[(38, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
